US08242145B2
Step 1: {3-[4-(3,5-Bis-trifluoromethyl-benzoylamino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 91, Step 3, using the following starting materials: {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and 3,5-bis(trifluoromethyl)benzoyl chloride.

reactant | {3-[4-amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN1C(OCC1)=O)=O | C21H24N2O6
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
product | {3-[4-(3,5-Bis-trifluoromethyl-benzoylamino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CN1C(OCC1)=O)=O | C30H26F6N2O7
